US08536171B2
Obtaining 5-Nitro-2,3-Dihydrophthalazine-1,4-Dione
A glass flask of the volume 1 l provided with an agitator, a thermometer, a condenser and a capillary was filled with 600 ml of icy acetic acid and 154.5 g (0.8 mole) of 3-nitrophthalic acid anhydride, thereafter it was heated to the temperature of 110° C. and gradually 44.1 g (0.88 mole) of hydrazine hydrate was added. Next the reaction mixture was kept at the state of boiling for 30 minutes thereafter it was cooled to the temperature of 80° C., the crystals of 5-nitro-2,3-dihydrophthalazine-1,4-dione were filtered, the sediment was washed on a filter with 50 ml of acetic acid and two times with 40 ml of distilled water. The total amount of 5-nitro-2,3-dihydrophthalazine-1,4-dione was 228.7 g, the yield was 92%.

reactant | 3-nitrophthalic acid anhydride | 0.8 mole, 154.5 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | hydrazine hydrate | 0.88 mole, 44.1 g | O.NN
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 5-Nitro-2,3-Dihydrophthalazine-1,4-Dione | yield was 92% | [N+](=O)([O-])C1=C2C(NNC(C2=CC=C1)=O)=O | C8H5N3O4
